US20010012901A1
A solution of dicyclohexylamine (0.54 g) in AcOEt (1 ml) was added to a solution of N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine (1.27 g) in AcOEt (11 ml) at room temperature. Diisopropyl ether (10 ml) was added and the mixture was stirred at room temperature to give N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)-benzamidine dicyclohexylamine salt as a solid (1.59 g).

reactant | dicyclohexylamine | 0.54 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine | 1.27 g | C(=O)(O)CC1(OC2=C(C(=C(C(=C2CC1)C)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C)C | C22H26N2O5S
reactant | Diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | AcOEt | 1 ml | CCOC(=O)C | C4H8O2
solvent | AcOEt | 11 ml | CCOC(=O)C | C4H8O2
product | N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)-benzamidine dicyclohexylamine salt | 1.59 g | C1(CCCCC1)NC1CCCCC1.C(=O)(O)CC1(OC2=C(C(=C(C(=C2CC1)C)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C)C | InChI=1S/C22H26N2O5S.C12H23N/c1-13-14(2)20(30(27,28)24-21(23)16-8-6-5-7-9-16)15(3)17-10-11-22(4,12-18(25)26)29-19(13)17;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h5-9H,10-12H2,1-4H3,(H2,23,24)(H,25,26);11-13H,1-10H2
